US04001336
22 g (0.1 mole) of 2,6,10-trimethyl-dodeca-4,8-dien-1-al are dissolved in 20 ml of tetrahydrofuran, 1 g of a palladium/charcoal catalyst (1%) is added and hydrogenation is carried out at 70° C until the absorption of hydrogen has ceased. The catalyst is then filtered off, the solvent distilled off and the residue is fractionated through a descending condenser. 21 g of 2,6,10-trimethyl-dodecan-1-al are obtained (yield, 93% of theory). B.p. = 80° - 81° C at 0.3 mm Hg; nD25 = 1.4456. Odor: bitter, greener and more aldehyde-like orange scent.

reactant | 2,6,10-trimethyl-dodeca-4,8-dien-1-al | 0.1 mole, 22 g | CC(C=O)CC=CC(CC=CC(CC)C)C | C15H26O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium/charcoal | 1 g | [Pd] | Pd
product | 2,6,10-trimethyl-dodecan-1-al | 21 g | CC(C=O)CCCC(CCCC(CC)C)C | C15H30O
